US07737145B2
A solution of 1,1-dimethylethyl 4-(methyl(2-(4-phenoxyphenyl)ethyl)amino)-1-piperidinecarboxylate (290 mg, 0.71 mmol) in dichloroethane was added a solution of hydrogen chloride in dioxane (4N). The reaction was stirred at ambient temperature for 4 hours. The reaction mixture was concentrated to dryness to give N-methyl-N-[2-(4-phenoxyphenyl)ethyl]-4-piperidinamine.

reactant | 1,1-dimethylethyl 4-(methyl(2-(4-phenoxyphenyl)ethyl)amino)-1-piperidinecarboxylate | 0.71 mmol, 290 mg | CN(C1CCN(CC1)C(=O)OC(C)(C)C)CCC1=CC=C(C=C1)OC1=CC=CC=C1 | C25H34N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | dioxane | 4N | O1CCOCC1 | C4H8O2
product | N-methyl-N-[2-(4-phenoxyphenyl)ethyl]-4-piperidinamine | CN(C1CCNCC1)CCC1=CC=C(C=C1)OC1=CC=CC=C1 | C20H26N2O
